US07968570B2
A mixture of 2-bromomethyl-3-methoxy-benzoic acid methyl ester (0.119 g, 0.5 mmol), benzylamine (0.065 mL, 0.6 mmol), and K2CO3 (0.207 g, 1.5 mmol) in toluene (5 mL) was heated with stirring at 100° C. for 2 h. Workup and silica gel column chromatography using 30% ethyl acetate in hexane afforded 2-benzyl-4-methoxy-2,3-dihydro-isoindol-1-one (0.078 g, 61.4%). 1H NMR (300 MHz, CDCl3): δ (ppm) 3.83 (s, 3H), 4.21 (s, 2H), 4.69 (s, 2H), 6.98 (d, 1H), 7.25-7.51 (m, 7H). GC-MS: m/z 253 (M)+, 176 (M-77)+.

reactant | 2-bromomethyl-3-methoxy-benzoic acid methyl ester | 0.5 mmol, 0.119 g | COC(C1=C(C(=CC=C1)OC)CBr)=O | C10H11BrO3
reactant | benzylamine | 0.6 mmol, 0.065 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | K2CO3 | 1.5 mmol, 0.207 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 2-benzyl-4-methoxy-2,3-dihydro-isoindol-1-one | 0.078 g, 61.4% | C(C1=CC=CC=C1)N1C(C2=CC=CC(=C2C1)OC)=O | C16H15NO2
